US05286728
37.2 g of 1-(4-nitrobenzoyl)-4-[2-(4-chlorophenyl)ethyl]piperazine are reduced at room temperature in 370 ml of tetrahydrofuran in the presence of 20 g of Raney nickel. The filtered reaction solution is concentrated by evaporation and the resulting oil is crystallised from isopropanol/petroleum ether, yielding 30 g of 1-(4-aminobenzoyl)-4-[2-(4-chlorophenyl)ethyl]piperazine having a melting point of 111°-112°.

reactant | 1-(4-nitrobenzoyl)-4-[2-(4-chlorophenyl)ethyl]piperazine | 37.2 g | [N+](=O)([O-])C1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C19H20ClN3O3
solvent | tetrahydrofuran | 370 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 20 g | [Ni] | Ni
product | 1-(4-aminobenzoyl)-4-[2-(4-chlorophenyl)ethyl]piperazine | 30 g | NC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C19H22ClN3O
